US08461167B2
Potential Synthesis of 3-(cinnolin-4-ylethynyl)-N-{3-cyclopropyl-4-[(4-methylpiperazin-1-yl)methy]phenyl}-4-methylbenzamide
The title compound can be synthesized from 4-ethynylcinnoline and N-(3-cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 1 (nitro reduction performed in a manner similar to that described for Example 10; 0.25M in MeOH/10% AcOH). 4-ethynylcinnoline is prepared from 4-bromocinnoline and ethynyltrimethylsilane according to the 2 steps procedure described in Example 1.

reactant | 4-ethynylcinnoline | C(#C)C1=CN=NC2=CC=CC=C12 | C10H6N2
reactant | N-(3-cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide | C1(CC1)C=1C=C(C=CC1CN1CCN(CC1)C)NC(C1=CC(=C(C=C1)C)I)=O | C23H28IN3O
product | 3-(cinnolin-4-ylethynyl)-N-{3-cyclopropyl-4-[(4-methylpiperazin-1-yl)methy]phenyl}-4-methylbenzamide | N1=NC=C(C2=CC=CC=C12)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C2CC2)C=CC1C | C33H33N5O
